US07919519B2
A solution of 2-(benzofuran-5-ylmethyl)thiazole (0.68 g, 3 mmol) in THF (20 mL) was cooled to −78° C. (under argon), treated with 2.5 M n-BuLi (3.0 equiv, 3.6 mL, in hexanes), and stirred for 2 min, warmed to 0° C. for 30 min, cooled to −78° C., and treated with triisopropyl borate (1 mL, 6 mmol). After 5 min, cooling was removed and the mixture slowly warmed to room temperature and stirred for 2 h. The mixture was diluted with EtOAc, washed 1× with brine, dried over MgSO4 and evaporated to give 5-(thiazol-2-ylmethyl)benzofuran-2-ylboronic acid as a yellow solid. MS (ESI) m/z: Calculated: 259.1; Observed: 260.4 (M++1).

reactant | 2-(benzofuran-5-ylmethyl)thiazole | 3 mmol, 0.68 g | O1C=CC2=C1C=CC(=C2)CC=2SC=CN2 | C12H9NOS
reactant | n-BuLi | 2.5 M, 3.6 mL, 3.0 equiv | [Li]CCCC
reactant | triisopropyl borate | 6 mmol, 1 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-(thiazol-2-ylmethyl)benzofuran-2-ylboronic acid | S1C(=NC=C1)CC=1C=CC2=C(C=C(O2)B(O)O)C1 | C12H10BNO3S
